US04140843
Dimeric α,α'-bis(cyclopentadienyl)-3,4,5,6-tetrachloro-orthoxylene
The α,α',3,4,5,6-hexachloro-orthoxylene used in this example is prepared as described in Example 1, except that 3,4,5,6-tetrachloro-orthoxylene instead of 2,3,5,6-tetrachloro-paraxylene is used.

reactant | α,α',3,4,5,6-hexachloro-orthoxylene | ClCC=1C(=C(C(=C(C1Cl)Cl)Cl)Cl)CCl | C8H4Cl6
reactant | 3,4,5,6-tetrachloro-orthoxylene | ClC1=C(C(=C(C(=C1Cl)Cl)Cl)C)C | C8H6Cl4
product | α,α'-bis(cyclopentadienyl)-3,4,5,6-tetrachloro-orthoxylene | C1(C=CC=C1)CC=1C(=C(C(=C(C1Cl)Cl)Cl)Cl)CC1C=CC=C1 | C18H14Cl4
